US03936464
Preparation of 5-acetyl-6,7-dihydro-7-[2-(4-phenylpiperidino)-ethyl]-5H-1,3-dioxolo[4,5-f]indole
A solution of 580 mg. (18.6 mmol) of 5-acetyl-6,7-dihydro-7-(2-bromoethyl)-5H-1,3-dioxolo[4,5-f]indole and 600 mg. (37.2 mmol) of 4-phenylpiperidine in 30 ml. of toluene is heated at reflux temperature for 18 hours. The solvent is removed, and the residue is extracted with diethyl ether (2 × 25 ml.), and the solid is removed by filtration. The filtrate is evaporated to give a residue that crystallizes on trituration with petroleum ether. The material is recrystallized from dilute acetone to give crystals, m.p. 101°-103°C.

reactant | 5-acetyl-6,7-dihydro-7-(2-bromoethyl)-5H-1,3-dioxolo[4,5-f]indole | 18.6 mmol | C(C)(=O)N1CC(C=2C=C3C(=CC12)OCO3)CCBr | C13H14BrNO3
reactant | 4-phenylpiperidine | 37.2 mmol | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-acetyl-6,7-dihydro-7-[2-(4-phenylpiperidino)-ethyl]-5H-1,3-dioxolo[4,5-f]indole | C(C)(=O)N1CC(C=2C=C3C(=CC12)OCO3)CCN3CCC(CC3)C3=CC=CC=C3 | C24H28N2O3
